US07291631B2
To a suspension of AlCl3 (4.05 g, 30.36 mmol) in fluorobenzene (10 mL) was added a solution of the 1-(2-bromo-pyridin-3-yl)-cyclopentanol (1.05 g, 4.33 mmol) in fluorobenzene (15 mL) and the resulting mixture was stirred overnight. The mixture was poured into ice (100 ml), basified with NaOH (10 N) to pH14, and extracted with EtOAc (4×40 mL). The combined organic extracts were washed with brine (2×50 mL), dried (MgSO4), filtered, and concentrated to afford a brown oil. Purification by flash column chromatography on silica gel using hexanes/EtOAc (2:1) afforded 2-bromo-3-[1-(4-fluoro-phenyl)-cyclopentyl]-pyridine as a yellow oil (956 mg, 69%).

reactant | AlCl3 | 30.36 mmol, 4.05 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-(2-bromo-pyridin-3-yl)-cyclopentanol | 4.33 mmol, 1.05 g | BrC1=NC=CC=C1C1(CCCC1)O | C10H12BrNO
reactant | NaOH | 10 N | [OH-].[Na+]
reactant | fluorobenzene | 10 mL | FC1=CC=CC=C1 | C6H5F
reactant | fluorobenzene | 15 mL | FC1=CC=CC=C1 | C6H5F
product | 2-bromo-3-[1-(4-fluoro-phenyl)-cyclopentyl]-pyridine | 956 mg, 69% | BrC1=NC=CC=C1C1(CCCC1)C1=CC=C(C=C1)F | C16H15BrFN
